US07253286B2
4-Chloro-6-(4-nitrophenoxy)pyrimidine
2,4-Dichloropyrimidine (2.98 g, 20.0 mmol), 4-nitrophenol (2.78 g, 20.0 mmol) and potassium carbonate (4.15 g, 30.0 mmol) were stirred together in dimethylformamide (20 ml) at room temperature for 15 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=1:4), and the fraction containing the target substance was concentrated to obtain the title compound (3.89 g, 15.5 mmol, 77%) as colorless crystals.

reactant | 2,4-Dichloropyrimidine | 20.0 mmol, 2.98 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-nitrophenol | 20.0 mmol, 2.78 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Chloro-6-(4-nitrophenoxy)pyrimidine | 15.5 mmol, 3.89 g, 77% | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
